US05416213
To a 200 ml volume egg-plant type flask equipped with a reflux condenser and a tube for introducing nitrogen gas, there were added 3.00 g (0.022 mole) of 2,3,5,6-tetramethyl pyrazine, 28.05 g (0.264 mole) of benzaldehyde and 59.72 g (0.264 mole) of benzoic anhydride and the contents of the flask were reacted for 10 hours with heating at 230° C. in a silicone oil bath while gradually passing nitrogen gas. After the reaction, the heating was interrupted, 100 ml of ethanol was added when the temperature of the reaction system reached 60° to 65° and the system was allowed to stand overnight. Crystals precipitated were recovered through filtration under reduced pressure. The crystals recovered on a filters paper were washed several times with ethanol and dried under reduced pressure. After drying, the crystals were recrystallized from toluene to give 2,3,5,6-tetrakis[2-(phenyl)vinyl]pyrazine as needles of pale yellowish brown. The yield thereof was 5.19 g (48.3%).

reactant | 2,3,5,6-tetramethyl pyrazine | 0.022 mole, 3.00 g | CC1=NC(=C(N=C1C)C)C | C8H12N2
reactant | benzaldehyde | 0.264 mole, 28.05 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | benzoic anhydride | 0.264 mole, 59.72 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,3,5,6-tetrakis[2-(phenyl)vinyl]pyrazine | C1(=CC=CC=C1)C=CC1=NC(=C(N=C1C=CC1=CC=CC=C1)C=CC1=CC=CC=C1)C=CC1=CC=CC=C1 | C36H28N2
